US04565845
In a 4-liter flask equipped with a cooling tube, 80 ml (84.8 g) of benzaldehyde, 56 ml (53.6 g) of pyrrol, and 3 liters of propionic acid were placed and reacted for 30 minutes under reflux. Then, the flask was allowed to stand for one day. After filtering the reaction mixture, recrystallization from a mixed solvent of methanol and chloroform (1:1 by weight) was carried out for purification. Thus, α,β,γ,δ-tetraphenylporphine was obtained in 20% yield.

reactant | benzaldehyde | 80 ml, 84.8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyrrol | 56 ml, 53.6 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | 3 liters | C(CC)(=O)O | C3H6O2
product | α,β,γ,δ-tetraphenylporphine | 20% yield | C1=CC=C(C=C1)C2=C3C=CC(=C(C4=CC=C(N4)C(=C5C=CC(=N5)C(=C6C=CC2=N6)C7=CC=CC=C7)C8=CC=CC=C8)C9=CC=CC=C9)N3 | C44H30N4
